T1 (vdd! net124 net124 0) pfet L=4.96E-6 W=7.99E-6
R2 ( net106 net101)  R=7.7E4
T3 ( net101 net26 vdd! vdd!)  pfet  L=2.17E-6 W=2.20E-6
T4 ( net116 net26 vdd! vdd!)  pfet  L=2.17E-6 W=2.20E-6
T5 ( 0 net101 net26 vdd!)  pfet  L=2.17E-6 W=2.20E-6
T6 (net52 net120 net120 0) pfet L=3.54E-6 W=7.71E-6
T7 (net33 net119 net119 0) pfet L=2.71E-6 W=2.47E-6
C8 (net110 net72) C=1.0E-14
R9 ( net97 net103)  R=9.4E4
T10 ( net103 net55 vdd! vdd!)  pfet  L=2.09E-6 W=5.58E-6
T11 ( net52 net55 vdd! vdd!)  pfet  L=2.09E-6 W=5.58E-6
T12 ( net68 net103 net52 vdd!)  pfet  L=2.09E-6 W=5.58E-6
C13 (net124 net128) C=9.0E-11
R14 (net38 net22) R=5.7E5
C15 (net29 net83) C=6.3E-6
R16 (vdd! net9) R=9.8E2
C17 (net89 net60) C=4.5E-11
T18 (net40 net67 net67 0) pfet L=5.07E-6 W=1.01E-6
R19 (net29 net3) R=7.3E1
C20 (net140 net102) C=1.7E-11
T21 (net11 net10 net10 0) pfet L=2.42E-6 W=7.31E-6
T22 (net104 net8 net8 0) nfet L=3.37E-6 W=2.33E-6
R23 (net82 net43) R=1.1E0
R24 (net75 net94) R=9.5E0
T25 (net72 net129 net129 0) nfet L=8.08E-6 W=6.34E-6
T26 (net49 0 0 0) nfet L=4.74E-6 W=9.96E-6
R27 (net109 net22) R=8.5E1
R28 (net60 net132) R=1.9E2
R29 (net140 net138) R=8.8E3
R30 (net82 net87) R=1.7E1
C31 (net85 net56) C=2.3E-14
R32 (net72 net83) R=4.3E3
T33 (net8 net45 net45 0) pfet L=8.51E-6 W=0.90E-6
T34 (net54 net18 net18 0) pfet L=8.75E-6 W=0.91E-6
T35 (net110 net137 net137 0) nfet L=4.17E-6 W=3.76E-6
R36 (net66 net57) R=0.1E0
T37 (net111 net87 net87 0) nfet L=0.93E-6 W=3.40E-6
T38 (net88 net21 net21 0) nfet L=1.97E-6 W=10.00E-6
R39 (net117 net64) R=6.0E4
T40 (net29 net74 net74 0) nfet L=2.04E-6 W=3.90E-6
R41 (net30 net134) R=5.9E6
R42 (net3 net37) R=8.2E1
R43 (net72 net13) R=2.6E1
C44 (net48 net98) C=5.1E-8
R45 (net64 net39) R=8.9E4
C46 (net37 net13) C=3.1E-13
R47 (net111 net42) R=3.5E4
T48 (net25 net28 net28 0) pfet L=9.50E-6 W=3.83E-6
R49 (net43 net13) R=0.9E6
T50 (net16 net45 net45 0) pfet L=1.80E-6 W=5.55E-6
R51 (net137 net107) R=7.3E2
T52 (net63 net47 net47 0) pfet L=1.72E-6 W=5.31E-6
C53 (net102 net54) C=6.4E-11
T54 (net77 net34 net34 0) nfet L=9.28E-6 W=9.14E-6
T55 (net79 net39 net39 0) nfet L=1.16E-6 W=6.02E-6
T56 (net9 0 0 0) pfet L=0.48E-6 W=1.07E-6
C57 (0 net62) C=5.2E-13
T58 (net65 net47 net47 0) nfet L=6.14E-6 W=5.02E-6
T59 (net36 vdd! vdd! 0) nfet L=5.58E-6 W=2.04E-6
T60 (net107 0 0 0) pfet L=2.35E-6 W=3.23E-6
T61 (net110 net61 net61 0) nfet L=3.54E-6 W=0.43E-6
T62 (net97 vdd! vdd! 0) nfet L=0.28E-6 W=2.36E-6
T63 (net136 net130 net130 0) pfet L=6.63E-6 W=2.51E-6
C64 (net83 net19) C=3.0E-13
R65 (vdd! net29) R=7.0E0
T66 (net88 net117 net117 0) pfet L=5.49E-6 W=5.31E-6
R67 (0 net108) R=8.5E0
T68 (net107 net35 net35 0) pfet L=5.35E-6 W=3.23E-6
T69 (net27 net57 net57 0) pfet L=2.77E-6 W=1.53E-6
T70 (net136 net60 net60 0) pfet L=9.09E-6 W=4.94E-6
R71 (0 net87) R=3.1E1
C72 (net92 net112) C=7.8E-6
C73 (net7 net70) C=5.5E-5
C74 (vdd! net142) C=0.4E-11
T75 (net83 0 0 0) nfet L=4.50E-6 W=4.49E-6
T76 (net18 0 0 0) nfet L=5.21E-6 W=4.09E-6
T77 (net56 vdd! vdd! 0) pfet L=1.67E-6 W=7.80E-6
R78 (net140 net48) R=2.1E6
R79 (net71 net75) R=6.6E4
T80 (net71 net142 net142 0) nfet L=4.23E-6 W=6.28E-6
T81 (net115 net108 net108 0) pfet L=6.86E-6 W=5.18E-6
T82 (vdd! net61 net61 0) pfet L=6.65E-6 W=4.52E-6
C83 (net1 vdd!) C=8.9E-6
T84 (net133 net123 net123 0) pfet L=2.98E-6 W=4.68E-6
T85 (net5 net25 net25 0) nfet L=1.95E-6 W=5.40E-6
R86 (net84 net122) R=6.6E1
T87 (net21 net15 net15 0) pfet L=7.67E-6 W=5.59E-6
T88 (net87 net19 net19 0) nfet L=0.61E-6 W=4.95E-6
T89 (net42 net110 net110 0) nfet L=5.18E-6 W=4.93E-6
R90 (net105 net16) R=3.4E6
C91 (net106 net29) C=4.8E-7
T92 (net74 vdd! vdd! 0) pfet L=9.24E-6 W=1.28E-6
C93 (0 net143) C=3.1E-8
C94 (net27 vdd!) C=7.1E-6
C95 (net90 net9) C=2.1E-10
C96 (net139 net72) C=3.6E-10
R97 (net34 net124) R=5.2E3
R98 (net19 net1) R=0.5E6
T99 (net5 vdd! vdd! 0) pfet L=4.80E-6 W=2.65E-6
C100 (net22 net136) C=4.8E-7
R101 (vdd! net140) R=5.7E1
T102 (net111 net119 net119 0) nfet L=5.92E-6 W=1.13E-6
C103 (net126 net25) C=8.8E-14
T104 (net29 net82 net82 0) pfet L=9.58E-6 W=4.50E-6
R105 (net79 net90) R=3.8E5
T106 (net21 0 0 0) pfet L=4.95E-6 W=7.33E-6
C107 (vdd! net20) C=0.2E-13
T108 (net89 net128 net128 0) pfet L=5.37E-6 W=6.43E-6
C109 (net35 net93) C=6.4E-8
T110 (net38 net49 net49 0) nfet L=5.34E-6 W=1.31E-6
T111 (net45 0 0 0) pfet L=7.78E-6 W=5.33E-6
C112 (net97 net11) C=1.1E-13
T113 (vdd! net143 net143 0) nfet L=2.92E-6 W=1.33E-6
R114 (net89 0) R=6.7E6
R115 (net82 net4) R=8.4E6
T116 (net127 net111 net111 0) pfet L=1.65E-6 W=5.25E-6
T117 (net142 net5 net5 0) pfet L=0.59E-6 W=5.88E-6
R118 (net99 net61) R=7.7E2
T119 (net83 net113 net113 0) pfet L=5.33E-6 W=6.42E-6
C120 (net87 net126) C=5.3E-10
C121 (net81 net79) C=4.9E-9
T122 (net128 net45 net45 0) nfet L=0.18E-6 W=1.72E-6
T123 (net17 net92 net92 0) pfet L=5.20E-6 W=1.30E-6
T124 (vdd! net129 net129 0) pfet L=0.38E-6 W=0.88E-6
T125 (net82 net104 net104 0) pfet L=8.47E-6 W=9.85E-6
C126 (net77 net97) C=9.1E-6
R127 (net15 net107) R=0.3E1
T128 (0 net136 net136 0) nfet L=2.92E-6 W=7.59E-6
R129 (net39 vdd!) R=2.5E1
T130 (net10 net63 net63 0) pfet L=6.96E-6 W=9.87E-6
C131 (net133 net114) C=7.7E-8
T132 (net136 net137 net137 0) pfet L=5.70E-6 W=8.52E-6
C133 (net7 net93) C=8.4E-12
C134 (net61 net78) C=5.0E-12
R135 (net118 net13) R=9.1E6
R136 (net112 net4) R=5.4E2
T137 (net59 net143 net143 0) pfet L=9.39E-6 W=6.31E-6
T138 (net16 net68 net68 0) nfet L=6.33E-6 W=9.40E-6
R139 (net100 net24) R=8.4E6
T140 (net40 net138 net138 0) nfet L=0.32E-6 W=8.58E-6
T141 (vdd! net58 net58 0) nfet L=8.50E-6 W=6.16E-6
R142 (net37 net95) R=1.0E4
T143 (net109 net136 net136 0) pfet L=3.15E-6 W=1.46E-6
C144 (net4 net8) C=2.3E-12
C145 (net105 net87) C=8.7E-11
C146 (net94 net112) C=8.8E-9
C147 (net88 net62) C=7.7E-5
R148 (net98 net19) R=1.3E0
R149 (net74 net129) R=0.7E4
T150 (net72 net71 net71 0) pfet L=8.88E-6 W=5.83E-6
T151 (net71 net110 net110 0) pfet L=8.71E-6 W=9.93E-6
C152 (net86 net75) C=4.5E-14
R153 (net32 net138) R=9.8E6
C154 (net130 net80) C=1.7E-10
R155 (net78 net88) R=9.4E5
T156 (net60 net18 net18 0) nfet L=0.85E-6 W=2.20E-6
T157 (net99 net96 net96 0) nfet L=1.30E-6 W=4.35E-6
T158 (net115 net108 net108 0) pfet L=9.71E-6 W=9.82E-6
T159 (net62 net65 net65 0) pfet L=5.17E-6 W=0.80E-6
C160 (net11 net58) C=4.7E-13
R161 (net93 net79) R=3.1E4
R162 (net79 net97) R=8.2E5
R163 (net112 net127) R=5.2E2
R164 (net49 net17) R=9.8E2
T165 (net35 net40 net40 0) pfet L=6.68E-6 W=3.47E-6
T166 (net120 net95 net95 0) nfet L=4.13E-6 W=9.68E-6
T167 (net12 net138 net138 0) pfet L=1.22E-6 W=1.36E-6
T168 (0 net8 net8 0) nfet L=8.26E-6 W=9.24E-6
C169 (net131 0) C=8.4E-12
C170 (net137 net10) C=5.3E-13
T171 (net40 net42 net42 0) pfet L=0.50E-6 W=4.55E-6
T172 (net17 net35 net35 0) nfet L=8.53E-6 W=2.62E-6
R173 (net125 net93) R=6.8E5
R174 (net41 net46) R=7.3E1
T175 (net98 vdd! vdd! 0) nfet L=5.65E-6 W=3.25E-6
T176 (net35 net134 net134 0) nfet L=3.04E-6 W=9.27E-6
T177 (net117 net92 net92 0) pfet L=4.67E-6 W=1.44E-6
T178 (net113 net78 net78 0) nfet L=5.43E-6 W=3.35E-6
C179 (net111 vdd!) C=2.0E-6
R180 (net63 vdd!) R=2.5E3
C181 (net113 net140) C=2.1E-8
R182 (net132 net115) R=9.6E0
T183 (net24 net138 net138 0) nfet L=4.66E-6 W=2.09E-6
R184 (net34 net9) R=8.8E0
T185 (net88 net73 net73 0) pfet L=0.39E-6 W=7.49E-6
T186 (net82 net22 net22 0) pfet L=1.89E-6 W=3.78E-6
R187 (net130 0) R=0.9E1
T188 (net72 net16 net16 0) nfet L=2.06E-6 W=7.68E-6
C189 (net139 net15) C=6.2E-13
C190 (net40 net60) C=4.9E-9
T191 (net108 net121 net121 0) pfet L=3.88E-6 W=6.21E-6
T192 (net24 net79 net79 0) pfet L=8.76E-6 W=1.83E-6
T193 (net74 net17 net17 0) pfet L=4.95E-6 W=6.66E-6
C194 (net81 net113) C=4.6E-6
R195 (net4 net8) R=8.4E2
T196 (net133 net48 net48 0) nfet L=6.50E-6 W=3.10E-6
T197 (net84 net43 net43 0) pfet L=4.37E-6 W=4.30E-6
C198 (net24 vdd!) C=5.5E-11
T199 (net14 net131 net131 0) pfet L=2.97E-6 W=3.75E-6
T200 (net143 net47 net47 0) nfet L=9.00E-6 W=0.91E-6
T201 (net120 net38 net38 0) nfet L=0.49E-6 W=0.82E-6
C202 (net28 net51) C=3.6E-12
C203 (net131 0) C=1.2E-8
R204 (net106 0) R=6.4E3
R205 (vdd! net44) R=2.9E1
R206 (net131 vdd!) R=3.9E1
R207 (net143 net77) R=4.2E0
R208 (net10 net62) R=8.9E3
C209 (net141 0) C=6.9E-9
C210 (net14 net135) C=1.3E-9
T211 (net130 net43 net43 0) pfet L=2.70E-6 W=5.21E-6
T212 (net15 net23 net23 0) nfet L=6.96E-6 W=1.60E-6
T213 (net23 net27 net27 0) pfet L=3.41E-6 W=6.53E-6
T214 (0 net116 net116 0) nfet L=7.87E-6 W=0.12E-6
C215 (net96 net128) C=4.4E-12
T216 (net77 net2 net2 0) pfet L=1.64E-6 W=2.93E-6
R217 (net8 net112) R=9.4E1
T218 (net72 net74 net74 0) pfet L=1.99E-6 W=0.37E-6
T219 (net67 net77 net77 0) nfet L=1.16E-6 W=0.49E-6
T220 (net84 net25 net25 0) pfet L=5.85E-6 W=4.97E-6
R221 (net41 0) R=6.5E4
T222 (vdd! 0 0 0) nfet L=4.51E-6 W=3.37E-6
T223 (net21 net27 net27 0) nfet L=0.16E-6 W=1.62E-6
R224 (net67 net68) R=0.8E1
C225 (net136 net62) C=5.6E-5
R226 (net9 vdd!) R=9.4E2
R227 (net78 net111) R=9.4E1
T228 (net14 net73 net73 0) pfet L=7.70E-6 W=4.15E-6
T229 (net71 net99 net99 0) nfet L=7.32E-6 W=2.14E-6
T230 (vdd! net86 net86 0) pfet L=6.98E-6 W=6.29E-6
R231 (net90 net89) R=0.4E5
T232 (net90 net13 net13 0) nfet L=5.55E-6 W=0.68E-6
T233 (vdd! net17 net17 0) nfet L=5.94E-6 W=2.01E-6
T234 (net23 net142 net142 0) nfet L=4.66E-6 W=0.77E-6
T235 (net98 net59 net59 0) nfet L=4.33E-6 W=2.12E-6
R236 (net43 net97) R=4.2E1
T237 (net50 net109 net109 0) pfet L=1.70E-6 W=7.97E-6
T238 (net134 net98 net98 0) pfet L=9.78E-6 W=4.62E-6
T239 (net113 net70 net70 0) pfet L=6.99E-6 W=9.44E-6
T240 (net78 net35 net35 0) pfet L=8.54E-6 W=4.01E-6
C241 (net78 0) C=2.4E-12
C242 (net34 net105) C=7.4E-6
C243 (net124 net49) C=1.6E-8
T244 (vdd! 0 0 0) pfet L=0.48E-6 W=6.26E-6
R245 (net38 net71) R=9.2E1
C246 (net108 0) C=2.8E-8
T247 (net141 net31 net31 0) pfet L=1.72E-6 W=7.23E-6
C248 (net128 net77) C=3.2E-6
T249 (net91 net38 net38 0) nfet L=9.44E-6 W=8.00E-6
R250 (net21 net62) R=0.1E5
T251 (net6 net73 net73 0) nfet L=4.57E-6 W=2.54E-6
T252 (net57 net25 net25 0) nfet L=9.57E-6 W=9.75E-6
C253 (net6 net37) C=2.6E-5
R254 (net139 net69) R=4.7E4
R255 (net2 0) R=7.0E0
R256 (net20 net94) R=2.8E6
R257 (0 net64) R=1.4E5
C258 (net12 net80) C=7.8E-14
T259 (net68 net7 net7 0) pfet L=8.21E-6 W=3.29E-6
T260 (vdd! net53 net53 0) nfet L=7.32E-6 W=4.88E-6
T261 (net28 net34 net34 0) pfet L=3.40E-6 W=9.34E-6
R262 (net117 net108) R=9.0E0
R263 (net93 net91) R=2.8E5
R264 (net51 net50) R=0.6E5
T265 (net126 net108 net108 0) pfet L=3.51E-6 W=8.59E-6
T266 (net46 net43 net43 0) nfet L=3.48E-6 W=4.23E-6
T267 (net9 net34 net34 0) nfet L=7.06E-6 W=4.66E-6
T268 (net21 net22 net22 0) pfet L=3.63E-6 W=7.18E-6
R269 (net6 net113) R=9.8E4
R270 (net29 net8) R=2.8E4
C271 (net8 net37) C=4.0E-10
T272 (net48 net136 net136 0) pfet L=8.83E-6 W=3.80E-6
C273 (net2 net81) C=1.1E-5
R274 (net107 net51) R=9.4E2
C275 (net1 net123) C=0.5E-11
T276 (net48 net107 net107 0) pfet L=2.37E-6 W=3.96E-6
T277 (vdd! net36 net36 0) pfet L=9.96E-6 W=6.87E-6
T278 (net33 net96 net96 0) nfet L=9.96E-6 W=7.83E-6
T279 (net83 net62 net62 0) nfet L=3.85E-6 W=4.95E-6
R280 (net25 net131) R=6.2E0
C281 (net104 net16) C=9.6E-8
C282 (net15 net62) C=3.4E-9
T283 (net71 net140 net140 0) pfet L=7.44E-6 W=6.01E-6
T284 (net71 net73 net73 0) nfet L=4.40E-6 W=1.86E-6
T285 (net114 net132 net132 0) pfet L=6.40E-6 W=2.29E-6
T286 (net35 net104 net104 0) nfet L=1.81E-6 W=9.89E-6
T287 (net105 0 0 0) pfet L=3.04E-6 W=5.93E-6
T288 (net3 net137 net137 0) nfet L=2.25E-6 W=9.61E-6
T289 (net143 net107 net107 0) pfet L=9.16E-6 W=4.37E-6
T290 (net91 net67 net67 0) pfet L=6.12E-6 W=6.87E-6
C291 (net48 0) C=3.2E-14
R292 (net87 net50) R=5.0E1
C293 (net131 net11) C=7.1E-6
R294 (net7 net4) R=8.3E2
C295 (vdd! net34) C=6.1E-8
T296 (net24 net58 net58 0) pfet L=0.94E-6 W=8.39E-6
C297 (net46 net3) C=0.9E-9
C298 (net129 net106) C=7.2E-11
R299 (net126 net53) R=8.1E1
C300 (0 net75) C=2.7E-8
T301 (vdd! net86 net86 0) nfet L=3.84E-6 W=3.62E-6
R302 (net34 net142) R=0.5E5
T303 (net28 net126 net126 0) nfet L=7.54E-6 W=1.94E-6
T304 (0 net84 net84 0) nfet L=9.67E-6 W=7.54E-6
C305 (net30 net143) C=1.1E-12
T306 (net88 net68 net68 0) nfet L=6.70E-6 W=4.42E-6
R307 (net58 net50) R=1.9E0
T308 (net21 net45 net45 0) nfet L=7.44E-6 W=0.69E-6
R309 (net91 net63) R=5.2E1
R310 (net119 vdd!) R=3.5E2
T311 (net77 net2 net2 0) pfet L=9.58E-6 W=7.17E-6
R312 (net33 0) R=8.7E6
T313 (net43 net2 net2 0) nfet L=4.67E-6 W=0.85E-6
T314 (net140 net3 net3 0) pfet L=2.35E-6 W=2.01E-6
C315 (net46 net141) C=2.5E-9
T316 (net21 net15 net15 0) nfet L=3.06E-6 W=0.72E-6
C317 (net73 net32) C=8.0E-5
C318 (net92 net56) C=9.8E-13
T319 (net104 0 0 0) nfet L=7.55E-6 W=8.71E-6
T320 (net140 net63 net63 0) pfet L=2.49E-6 W=5.84E-6
C321 (net50 net22) C=9.7E-11
T322 (net59 net68 net68 0) pfet L=2.93E-6 W=1.53E-6
T323 (net28 vdd! vdd! 0) pfet L=0.84E-6 W=7.60E-6
T324 (net18 net97 net97 0) pfet L=3.89E-6 W=3.67E-6
T325 (net141 net36 net36 0) nfet L=1.08E-6 W=4.47E-6
T326 (net94 net10 net10 0) pfet L=5.73E-6 W=6.76E-6
C327 (0 net61) C=9.3E-8
T328 (net117 net130 net130 0) nfet L=8.95E-6 W=0.24E-6
T329 (net122 net109 net109 0) pfet L=9.45E-6 W=4.56E-6
R330 (net70 net102) R=8.2E2
T331 (net38 net128 net128 0) nfet L=9.30E-6 W=3.70E-6
T332 (net37 net60 net60 0) pfet L=1.48E-6 W=5.37E-6
T333 (net27 net30 net30 0) nfet L=4.46E-6 W=0.97E-6
T334 (net96 net8 net8 0) pfet L=3.41E-6 W=8.46E-6
R335 (net6 net2) R=3.8E2
C336 (net141 0) C=1.4E-9
T337 (net96 net68 net68 0) pfet L=0.78E-6 W=8.60E-6

